US08193187B2
8-[N-(9-Fluorenylmethoxycarbonyl)-N-(2-methoxyphenyl)amino methyl]-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 13)
7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(2-methoxyphenylaminomethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-4, 104 mg, 0.212 mmol) and sodium hydrogen carbonate (22.0 mg, 0.262 mmol) were dissolved in mixed solvent of 1,4-dioxane (1.5 mL) and water (1 mL), and 9-fluorenylmethoxycarbonyl chloride (60.3 mg, 0.233 mmol) was added thereto. After the reaction mixture was stirred at room temperature for 30 minutes, the mixture was diluted with ethyl acetate (50 mL). The mixture was washed with water (50 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (149 mg) as a colorless amorphous product. (Yield 99%)

reactant | 7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(2-methoxyphenylaminomethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.212 mmol, 104 mg | COC1=C(C=CC(=C1)OCOC)C1=CC=C2NC(C(N(C2=C1CNC1=C(C=CC=C1)OC)C)=O)(C)C | C28H33N3O5
reactant | sodium hydrogen carbonate | 0.262 mmol, 22.0 mg | C(O)([O-])=O.[Na+]
reactant | 9-fluorenylmethoxycarbonyl chloride | 0.233 mmol, 60.3 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 8-[N-(9-Fluorenylmethoxycarbonyl)-N-(2-methoxyphenyl)amino methyl]-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 149 mg, Yield 99% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N(C1=C(C=CC=C1)OC)CC=1C(=CC=C2NC(C(N(C12)C)=O)(C)C)C1=C(C=C(C=C1)OCOC)OC | C43H43N3O7
